US09169254B2
(2-Hydroxy-ethyl)-methyl-carbamic acid tert-butyl ester (73.9 mg, 0.42 mmol) was dissolved in THF (1.15 mL). Sodium hydride (50%, 22.1 mg, 0.46 mmol) was added at 0° C. and the mixture was stirred at 0° C. for 10 minutes in a nitrogen atmosphere. Trifluoro-methanesulfonic acid (4R,5S)-5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl ester was added to the reaction solution, and the mixture was stirred at room temperature for two hours in a nitrogen atmosphere. Saturated aqueous ammonium chloride was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and saturated brine, dried over sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give (2-{(4R,5S)-5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy}-ethyl)-methyl-carbamic acid tert-butyl ester (82.2 mg, 38%).

reactant | (2-Hydroxy-ethyl)-methyl-carbamic acid tert-butyl ester | 0.42 mmol, 73.9 mg | C(C)(C)(C)OC(N(C)CCO)=O | C8H17NO3
reactant | Sodium hydride | 0.46 mmol, 22.1 mg | [H-].[Na+]
reactant | Trifluoro-methanesulfonic acid (4R,5S)-5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl ester | C(C)(C)(C)[Si](OCC[C@H]1[C@H](OC(O1)(C)C)COS(=O)(=O)C(F)(F)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H33F3O6SSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 1.15 mL | C1CCOC1 | C4H8O
product | (2-{(4R,5S)-5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy}-ethyl)-methyl-carbamic acid tert-butyl ester | 82.2 mg, 38% | C(C)(C)(C)OC(N(C)CCOC[C@H]1OC(O[C@H]1CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C)C)=O | C32H49NO6Si
